US08729105B2
Preparation of 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-(2-propyl-thiazol-4-ylmethyl)-nicotinamide
The title compound was synthesized in analogy to Example 1, using 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid (CAS Registry No. 1018782-76-7) and 2-propyl-4-thiazolemethanamine as starting materials, LC-MS (UV peak area/ESI) 99%, 442.134 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC1CC1)C(=O)O | C16H14ClNO3
reactant | 2-propyl-4-thiazolemethanamine | C(CC)C=1SC=C(N1)CN | C7H12N2S
product | 5-(4-chloro-phenyl)-6-cyclopropylmethoxy-N-(2-propyl-thiazol-4-ylmethyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC=2N=C(SC2)CCC)C1)OCC1CC1 | C23H24ClN3O2S
